US09029560B2
Preparation of (E)-ethyl 2-methyl-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate (C36)
4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde (7.56 g, 22.7 mmol) and ethyl 2-(triphenylphosphoranylidene)propanoate (9.87 g, 27.2 mmol) in anhydrous toluene (30 mL) was heated at 110° C. for 16 hours. Additional ethyl 2-(triphenylphosphoranylidene)propanoate (2.40 g, 6.06 mmol) was then added, and the reaction was heated at 110° C. for 4 hours. The reaction was cooled, concentrated under vacuum, and loaded onto silica gel. Purification by flash column chromatography using 0-100% ethyl acetate/hexanes as eluent followed by reverse-phase flash column chromatography using 0-100% acetonitrile/water as eluent afforded the title compound as a white solid (5.92 g, 62%): mp 126-127.5° C.; 1H NMR (400 MHz, CDCl3) δ 8.58 (s, 1H), 8.27-8.17 (m, 2H), 7.84-7.78 (m, 2H), 7.73 (s, 1H), 7.52 (d, J=8.2 Hz, 2H), 7.40 (d, J=8.3 Hz, 2H), 4.29 (q, J=7.1 Hz, 2H), 2.17 (d, J=1.5 Hz, 3H), 1.37 (t, J=7.1 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.02; ESIMS m/z 418 ([M+H]+).

reactant | 4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde | 22.7 mmol, 7.56 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=O)C=C1)(F)F | C16H10F3N3O2
reactant | ethyl 2-(triphenylphosphoranylidene)propanoate | 27.2 mmol, 9.87 g | C1(=CC=CC=C1)P(=C(C(=O)OCC)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
reactant | ethyl 2-(triphenylphosphoranylidene)propanoate | 6.06 mmol, 2.40 g | C1(=CC=CC=C1)P(=C(C(=O)OCC)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-ethyl 2-methyl-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate | 5.92 g, 62% | C/C(/C(=O)OCC)=C\C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C21H18F3N3O3
